US07618960B2
Synthesis of (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine
Trifluoroacetic acid (0.5 ml) was added to a solution of tert-butyl [(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]carbamate (370 mg) in methylene chloride (2 ml), and the reaction solution was stirred at room temperature for 11 hours. A saturated sodium bicarbonate solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate solution and brine, and then the solvent was evaporated under reduced pressure to obtain 275 mg of the title compound.

reactant | Trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]carbamate | 370 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O)C | C30H36F3NO3Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine | 275 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N)C | C25H28F3NOSi
